Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7],6.072693061849999
[C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],-3.87139146108
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.11775190182
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1][C:2]#[C:3][H:4],4.20438257682
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11],3.81181768073
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])=[C:15]([H:16])[H:17],3.70414359562
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4],1.86899302181
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14],-1.50894110223
[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-8.59402483
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.90940370019
[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-8.41689802368
[C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-2.80504023883
[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-3.64677574731
[C:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8].[O:1]>>[O:1][C@:2]([H:3])([C:4]#[C:5][H:6])[O:7][H:8],-3.47106657769
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]#[C:7][O:8][H:9],1.95846991727
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.07938767288
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.00149493475
[C:8]([H:9])([H:10])=[C:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],1.39011454408
[C:5]([H:6])[H:7].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7],-4.93616539714
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],5.1338035845
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.92203143244
[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.43610415114
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],2.69963808298
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11].[H:12],3.96154723931
[H:1][O:2][C:3][C:4](=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.7264836220700004
[C:11][H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-8.60024240973
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][C:2],4.36457661341
[C:1]#[C:2][C:3]#[C:4][C:6]([H:7])=[C:8][H:9].[H:5]>>[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9],-3.8007995686
